US05969146
13.3. 3-[(Ethoxycarbonyl)amino]-6-methoxybenzo[b]thiophene-2-carboxylic acid
92 ml of a 10% ethanolic potassium hydroxide solution are added to a solution of 31.4 g (0.101 mol) of methyl 3-[(ethoxycarbonyl)amino]-6-methoxybenzo[b]thiophene-2-carboxylate in 230 ml of ethanol. The mixture is heated at 60° C. for 10 minutes and is then poured onto ice-cold water. The mixture is acidified by addition of a 6N hydrochloric acid solution and the precipitate formed is filtered off, rinsed with water and dried under reduced pressure. The solid is triturated in ethanol. 22.8 g of product are recovered.

reactant | potassium hydroxide | [OH-].[K+]
reactant | methyl 3-[(ethoxycarbonyl)amino]-6-methoxybenzo[b]thiophene-2-carboxylate | 0.101 mol, 31.4 g | C(C)OC(=O)NC=1C2=C(SC1C(=O)OC)C=C(C=C2)OC | C14H15NO5S
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | ethanol | 230 ml | C(C)O | C2H6O
product | 3-[(Ethoxycarbonyl)amino]-6-methoxybenzo[b]thiophene-2-carboxylic acid | C(C)OC(=O)NC=1C2=C(SC1C(=O)O)C=C(C=C2)OC | C13H13NO5S
